US08420655B2
A solution of 5-fluoro-phthalamic acid methyl ester plus regioisomer (2.24 g, 11.36 mmol) in N,N-dimethylformamide dimethyl acetal (10 mL) is heated at 110° C. for 3 hours. The reaction mixture is allowed to cool to room temperature and is concentrated under reduced pressure to afford crude N-[1-dimethylamino-meth-(E)-ylidene]-5-fluoro-phthalamic acid methyl ester plus regioisomer (2.9 g).

reactant | 5-fluoro-phthalamic acid methyl ester | COC(C=1C(C(=O)N)=CC=C(C1)F)=O | C9H8FNO3
reactant | N,N-dimethylformamide dimethyl acetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | N-[1-dimethylamino-meth-(E)-ylidene]-5-fluoro-phthalamic acid methyl ester | COC(C=1C(C(=O)/N=C/N(C)C)=CC=C(C1)F)=O | C12H13FN2O3
